US08461158B2
A mixture of tert-butyl 2-(difluoromethyl)-4-methoxy-1H-benzimidazol-6-yl-carbamate (0.47 g, 1.5 mmol), 2,4-dichloro-6-(4-morpholinyl)-1,3,5-triazine (0.35 g, 1.5 mmol), and powdered K2CO3 (0.83 g, 6 mmol) in DMF (10 mL) was stirred at room temperature for 30 min. The reaction mixture was then diluted with water. The resulting precipitate was collected, washed with water and then MeOH, and dried to give 0.45 g (59% yield) of tert-butyl 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazol-6-yl-carbamate: mp (CH2Cl2/MeOH)>300° C.; 1H NMR (CDCl3) δ 8.45 (d, J=0.6 Hz, 1H), 7.57 (t, JHF=53.6 Hz, 1H), 6.67 (br, exchangeable with D2O, 1H), 6.63 (d, J=0.9 Hz, 1H), 4.11 (m, 2H), 4.02 (s, 3H), 3.97 (m, 2H), 3.88 (m, 2H), 3.82 (m, 2H), 1.52 (s, 9H); Anal. Calcd. for C21H24ClF2N7O4: C, 49.3; H, 4.7; N, 19.15. Found: C, 49.4; H, 4.8; N, 19.2%.

reactant | tert-butyl 2-(difluoromethyl)-4-methoxy-1H-benzimidazol-6-yl-carbamate | 1.5 mmol, 0.47 g | FC(C1=NC2=C(N1)C=C(C=C2OC)NC(OC(C)(C)C)=O)F | C14H17F2N3O3
reactant | 2,4-dichloro-6-(4-morpholinyl)-1,3,5-triazine | 1.5 mmol, 0.35 g | ClC1=NC(=NC(=N1)Cl)N1CCOCC1 | C7H8Cl2N4O
reactant | K2CO3 | 6 mmol, 0.83 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazol-6-yl-carbamate | 0.45 g, 59% yield | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=C(C=C2OC)NC(OC(C)(C)C)=O)C(F)F | C21H24ClF2N7O4
